US03997323
The procedure of Example 1(a) is followed using 2,3-butanedithiol and 1-chloro-2-butanone to give 2-ethyl-5,6-dihydro-5,6-dimethyl-1,4-dithiin as a colorless oil, b.p. 55°-58°/0.03-0.05 mm, yield 53%. NMR 1.08 (3t), 1.36 (6d), 2.18 (2q), 2.7-3.1 (2m), 5.78 (1s, broadened) (CDCl3). IR 3000 (shoulder), 2955, 1570, 1440, 1365, 1110, 825, 705.

reactant | 2,3-butanedithiol | CC(C(C)S)S | C4H10S2
reactant | 1-chloro-2-butanone | ClCC(CC)=O | C4H7ClO
product | 2-ethyl-5,6-dihydro-5,6-dimethyl-1,4-dithiin | yield 53% | C(C)C=1SC(C(SC1)C)C | C8H14S2
